US07011838B2
Using 0.50 g of (4-(trifluoromethylthio)benzyl)malononitrile, 5 ml of N,N-dimethylformamide, 90 mg of sodium hydride (60% in oil), and 0.26 g of 2,3-dichloropropene, and according to the process described in the Production Example 1, there was obtained 0.30 g of 2-(2-chloro-2-propenyl)-2-(4-(trifluoromethylthio)benzyl)malononitrile (the present compound (2)).

reactant | (4-(trifluoromethylthio)benzyl)malononitrile | 0.50 g | FC(SC1=CC=C(CC(C#N)C#N)C=C1)(F)F | C11H7F3N2S
reactant | sodium hydride | 90 mg | [H-].[Na+]
reactant | 2,3-dichloropropene | 0.26 g | ClC(=C)CCl | C3H4Cl2
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 2-(2-chloro-2-propenyl)-2-(4-(trifluoromethylthio)benzyl)malononitrile | 0.30 g, Yield: 47% | ClC(CC(C#N)(C#N)CC1=CC=C(C=C1)SC(F)(F)F)=C | C14H10ClF3N2S
